US04187303
7.5 g (36.1 mmol) of 3-hydroxymethyl-2-N-methylthiophenesulfonamide are boiled under reflux with 50 ml of thionyl chloride for 15 minutes. Thereafter, the mixture is evaporated to dryness in a water-jet vacuum. The residue is taken up in 150 ml of methylene chloride and stirred with saturated sodium bicarbonate solution until the aqueous phase has an alkaline reaction. The phases are separated. The aqueous phase is extracted with two 50 ml portions of methylene chloride. The combined organic phases are dried over sodium sulfate and evaporated to give an oil which crystallizes out in the cold. There is obtained 3-chloromethyl-2-N-methylthiophenesulfonamide of melting point 52°-53° C.

reactant | 3-hydroxymethyl-2-N-methylthiophenesulfonamide | 36.1 mmol, 7.5 g | OCC1=C(SC=C1)S(=O)(=O)NC | C6H9NO3S2
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-2-N-methylthiophenesulfonamide | ClCC1=C(SC=C1)S(=O)(=O)NC | C6H8ClNO2S2
